US07151096B2
A mixture of N-[3-ethoxycarbonyl-phenyl]-4-(2-chloro-3-pyridyl)-2-pyrimidineamine (1.15 g, 3.24 mmol), sodium hydroxide (300 mg, 7.5 mmol) in acetonitrile (15 mL) and water (5 mL) is heated to reflux for 4 hours. The reaction mixture is then cooled to room temperature and concentrated. The residue is dissolved in water and acidified with 10% hydrochloric acid. The solid is collected by filtration and washed with water, methanol and dried to give N-[3-carboxy-phenyl]-4-(2-chloro-3-pyridyl)-2-pyrimidineamine (600 mg); ESI-MS (m/z): 327.0 (M++H).

reactant | N-[3-ethoxycarbonyl-phenyl]-4-(2-chloro-3-pyridyl)-2-pyrimidineamine | 3.24 mmol, 1.15 g | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NC=CC1)Cl | C18H15ClN4O2
reactant | sodium hydroxide | 7.5 mmol, 300 mg | [OH-].[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | N-[3-carboxy-phenyl]-4-(2-chloro-3-pyridyl)-2-pyrimidineamine | 600 mg | C(=O)(O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NC=CC1)Cl | C16H11ClN4O2
